US04698345
(a) Ethyl 5-hydroxy-4-propyl-1H-indole-2-carboxylate
Ethyl 5-hydroxy-4-(2-propenyl)-1H-indole-2-carboxylate (2.16 g) was dissolved in dry ethanol (100 ml) and hydrogenated at atmospheric pressure in the presence of 5% palladium on charcoal (0.2 g) until hydrogen uptake had ceased. The catalyst was filtered off, washed with hot ethanol, the filtrate evaporated and the residue recrystallised from aqueous ethanol to give 1.616 g of the desired product mp 185°-186°:

reactant | Ethyl 5-hydroxy-4-(2-propenyl)-1H-indole-2-carboxylate | 2.16 g | OC=1C(=C2C=C(NC2=CC1)C(=O)OCC)CC=C | C14H15NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.2 g | [Pd] | Pd
product | Ethyl 5-hydroxy-4-propyl-1H-indole-2-carboxylate | 1.616 g | OC=1C(=C2C=C(NC2=CC1)C(=O)OCC)CCC | C14H17NO3
